US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(2-oxa-6-azaspiro[3.4]oct-8-yl)quinolin-4-amine
The title compound was prepared in analogy to Example 2-1 in Scheme 4 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 6-benzyl-2-oxa-6-azaspiro[3.4]oct-8-ylamine. MS obsd. (ESI+) [(M+H)+] 465, 1H NMR (400 MHz, CD3OD) δ ppm 8.11-8.08 (m, 2 H), 7.90-7.88 (d, J=7.2, 1 H), 7.75-7.70 (m, 2 H), 7.65-7.59 (m, 2 H), 6.36 (s, 1 H), 5.38-5.36 (d, J=8.8, 2 H), 5.20-5.10 (m, 1 H), 4.80-4.79 (m, 2 H), 4.74-4.72 (m, 2 H), 4.56-4.54 (d, J=7.2, 2 H), 3.90-3.87 (m, 1 H), 3.81-3.75 (m, 4 H), 3.60-3.50 (m, 1 H), 2.48 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 6-benzyl-2-oxa-6-azaspiro[3.4]oct-8-ylamine | C(C1=CC=CC=C1)N1CC2(COC2)C(C1)N | C13H18N2O
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(2-oxa-6-azaspiro[3.4]oct-8-yl)quinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC2CNCC21COC1)C)=O | C25H28N4O3S
